US08252793B2
2,3-diaminophenol (5 g, 40.3 mmol) was dissolved in propionic acid (10 mL) and stirred at 150° C. for 3 h. The reaction mixture was cooled to room temperature and the volume reduced under high vacuum to give a brown solid which was partitioned between chloroform and a saturated solution of bicarbonate, the chloroform layer was separated, dried and concentrated to give a brown solid. The brown solid (1.3 g, 8.0 mmol) was dissolved in DMF (40 mL) and K2CO3 (2.8 g, 0.02 mmol) was added followed by benzylbromide (1.5 g, 8.8 mmol). The reaction mixture was stirred at room temperature overnight, partitioned with water and ethyl acetate, ethyl acetate layer was separated, dried (MgSO4), concentrated, and purified by flash chromatography to give 7-benzyloxy-2-ethyl-1H-benzimidazole (0.9 g, 44%). LCMS 253 (M+)

reactant | 2,3-diaminophenol | 40.3 mmol, 5 g | NC1=C(C=CC=C1N)O | C6H8N2O
reactant | K2CO3 | 0.02 mmol, 2.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 8.8 mmol, 1.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | propionic acid | 10 mL | C(CC)(=O)O | C3H6O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 7-benzyloxy-2-ethyl-1H-benzimidazole | 0.9 g, 44% | C(C1=CC=CC=C1)OC1=CC=CC2=C1NC(=N2)CC | C16H16N2O
